US06518423B1
2-Benzyl-5-nitropyridine
1.5 g of diethyl 2-phenyl-2-(5-nitropyridin-2-yl)malonate was dissolved in 50 ml of ethanol. After adding 10 ml of water and 10 ml of conc. sulfuric acid, the mixture was heated under reflux for 8 hours. After the completion of the reaction, the reaction mixture was poured into a saturated aqueous solution of sodium hydrogencarbonate and extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate and filtered. The filtrate was distilled under reduced pressure and the obtained residue was purified by silica gel column chromatography (eluted with ethyl acetate/n- hexane) to thereby give 632 mg of the title compound as reddish brown crystals.

reactant | diethyl 2-phenyl-2-(5-nitropyridin-2-yl)malonate | 1.5 g | C1(=CC=CC=C1)C(C(=O)OCC)(C(=O)OCC)C1=NC=C(C=C1)[N+](=O)[O-] | C18H18N2O6
reactant | water | 10 ml | O | H2O
reactant | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-Benzyl-5-nitropyridine | 632 mg | C(C1=CC=CC=C1)C1=NC=C(C=C1)[N+](=O)[O-] | C12H10N2O2
